US09290517B2
(3R,3aR,6R,6aR)-6-((6-chloro-5-(2-fluoro-[1,1′-biphenyl]-4-yl)-1H-imidazo[4,5-b]pyridin-2-yl)oxy)hexahydrofuro[3,2-b]furan-3-ol
A mixture of (3R,3aR,6R,6aR)-6-((6-chloro-5-iodo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyridin-2-yl)oxy)hexahydrofuro[3,2-b]furan-3-ol (40 mg, 0.072 mmol) and (2-fluoro-[1,1′-biphenyl]-4-yl)boronic acid (18.72 mg, 0.087 mmol) in anhydrous dioxane (0.4 ml) was purged with N2 and then chloro[(tri-tert-butylphosphine)-2-(2-aminobiphenyl)]palladium(II) (7.4 mg, 0.014 mmol) and tripotassium phosphate (0.217 ml, 0.217 mmol) were added under N2 flow. The mixture was stirred at 25° C. overnight. The crude mixture was extracted with DCM and the combined organic extracts were washed with water and evaporated under reduced pressure. 1 ml of 1:1 CH2Cl2 and TFA was added to the resulting residue and the reaction mixture was stirred for 2 hours. Then the solvent was evaporated under reduced pressure to give an amber residue. The residue was diluted with 1.5 ml DMSO, filtered and purified by mass directed reverse phase column chromatography eluting with acetonitrile/water+0.1% TFA to give the title product. LC-MS: calculated for C24H19ClFN3O4, 467.10, observed m/e: 468.11 (M+H)+ (RT 0.76/2.00 min).

reactant | (3R,3aR,6R,6aR)-6-((6-chloro-5-iodo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyridin-2-yl)oxy)hexahydrofuro[3,2-b]furan-3-ol | 0.072 mmol, 40 mg | ClC=1C=C2C(=NC1I)N=C(N2COCC[Si](C)(C)C)O[C@@H]2CO[C@H]1[C@@H]2OC[C@H]1O | C18H25ClIN3O5Si
reactant | (2-fluoro-[1,1′-biphenyl]-4-yl)boronic acid | 0.087 mmol, 18.72 mg | FC1=C(C=CC(=C1)B(O)O)C1=CC=CC=C1 | C12H10BFO2
reactant | tripotassium phosphate | 0.217 mmol, 0.217 ml | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 0.4 ml | O1CCOCC1 | C4H8O2
solvent | DMSO | 1.5 ml | CS(=O)C | C2H6OS
catalyst | chloro[(tri-tert-butylphosphine)-2-(2-aminobiphenyl)]palladium(II) | 0.014 mmol, 7.4 mg | CC(C)(C)[P+](C(C)(C)C)(C(C)(C)C)Cl.C1=CC=C(C=C1)C2=CC=CC=C2N.[Pd+2]
product | (3R,3aR,6R,6aR)-6-((6-chloro-5-(2-fluoro-[1,1′-biphenyl]-4-yl)-1H-imidazo[4,5-b]pyridin-2-yl)oxy)hexahydrofuro[3,2-b]furan-3-ol | ClC=1C=C2C(=NC1C1=CC(=C(C=C1)C1=CC=CC=C1)F)N=C(N2)O[C@@H]2CO[C@H]1[C@@H]2OC[C@H]1O | C24H19ClFN3O4
